US04561882
The above 3-oxo ester is reduced using NaBH4 in ethanol to yield ethyl 4-[4-(6,7-dichloro-2-quinoxalyloxy)phenoxy]-3-hydroxypentanoate. Ethyl 4-(4-hydroxyphenoxy)-3-methoxy-2-pentenoate is prepared by the reaction of hydroquinone and ethyl 4-bromo-3-methoxy-2-pentenoate in the presence of base in acetone or the like under reflux.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethyl 4-bromo-3-methoxy-2-pentenoate | BrC(C(=CC(=O)OCC)OC)C | C8H13BrO3
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 4-(4-hydroxyphenoxy)-3-methoxy-2-pentenoate | OC1=CC=C(OC(C(=CC(=O)OCC)OC)C)C=C1 | C14H18O5
